US05034404
A mixture of 4.07g of 2-chloro-5-aminopyridine, 2.55g of methyl isothiocyanate and 30ml of acetonitrile was refluxed for 13.5 hours, to which 0.70g of additional methyl isothiocyanate was added and the mixture was refluxed for 3.5 hours. The reaction mixture was concentrated, and the residue was purified by a column chromatography [developing solvent: dichloromethaneethyl acetate (1: 1)] to afford 4.51g of 1-(6-chloro-3-pyridyl)-3-methylthiourea.

reactant | 2-chloro-5-aminopyridine | 4.07g | ClC1=NC=C(C=C1)N | C5H5ClN2
reactant | methyl isothiocyanate | 2.55g | CN=C=S | C2H3NS
reactant | methyl isothiocyanate | 0.70g | CN=C=S | C2H3NS
solvent | acetonitrile | 30ml | C(C)#N | C2H3N
product | 1-(6-chloro-3-pyridyl)-3-methylthiourea | 4.51g | ClC1=CC=C(C=N1)NC(=S)NC | C7H8ClN3S
